US04267317
In a reactor, 30 g of ethanol was charged and 12.7 g (0.05 mole) of 4-(4-trifluoromethylphenoxy)phenol, 15.8 g (0.055 mole) of ethyl 3,4-dibromopentanoate, 8.7 g (0.063 mole) of potassium carbonate were charged. They were refluxed for 6 hours to react them. After the reaction, ethanol was distilled off from the reaction mixture and then 50 ml of toluene was added to the resulting mixture, and resulting solution was washed with water and then, the organic phase was washed with 5% hydrochloric acid and with water and then ethyl 3,4-dibromopentanoate and a lower boiling by-products were distilled off at 100° C. under a reduced pressure of 0.02-0.05 mmHg to obtain 15.6 g of ethyl 4-[4-(4-trifluoromethylphenoxy)phenoxy]-2-pentenoate (nD20 1.5175). The yield was 82.0%. The same process was repeated to obtain same compound except using ethyl 3,4-dichloropentanoate 10.9 g (0.055 mole) instead of ethyl 3,4-dibromopentanoate 15.8 g (0.055 mole). The yield was 73.6%.

reactant | 4-(4-trifluoromethylphenoxy)phenol | 0.05 mole, 12.7 g | FC(C1=CC=C(OC2=CC=C(C=C2)O)C=C1)(F)F | C13H9F3O2
reactant | ethyl 3,4-dibromopentanoate | 0.055 mole, 15.8 g | BrC(CC(=O)OCC)C(C)Br | C7H12Br2O2
reactant | potassium carbonate | 0.063 mole, 8.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 30 g | C(C)O | C2H6O
product | ethyl 4-[4-(4-trifluoromethylphenoxy)phenoxy]-2-pentenoate | 15.6 g, yield was 82.0% | FC(C1=CC=C(OC2=CC=C(OC(C=CC(=O)OCC)C)C=C2)C=C1)(F)F | C20H19F3O4
